US07842688B2
e) 1-(3-Methoxypropoxy)-2-nitrobenzene
A suspension of 2.00 g of 2-nitrophenol, 1.72 g of 1-chloro-3-methoxypropane and 3.04 g potassium carbonate in 20 ml of N,N-dimethylformamide is stirred at reflux over 23 hours. The reaction mixture is concentrated by evaporation. The residue is partitioned between ethyl acetate and a 9:1 water/brine mixture. The water phase is extracted using ethyl acetate (2×). The organic phases are washed with brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.33 (1:2 EtOAc-heptane); Rt=4.08.

reactant | 2-nitrophenol | 2.00 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 1-chloro-3-methoxypropane | 1.72 g | ClCCCOC | C4H9ClO
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(3-Methoxypropoxy)-2-nitrobenzene | COCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C10H13NO4
